US05760032
Ethyl 3-(4-(2-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)propionate (4.0 g) was added to 2M hydrochloric acid (100 ml), and the mixture was stirred at 60° C. for 1 hour. The reaction mixture was cooled to 0° C. A saturated aqueous sodium hydrogencarbonate solution, chloroform and 3,4-dichlorobenzoyl chloride (2.1 g) were added, and the mixture was stirred for 0.5 hour. The organic layer was taken out, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent: ethyl acetate) and crystallized from a mixed solvent of ethyl acetate-diisopropyl ether to give 0.56 g of ethyl 4-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl)-4-(3,4-dichlorobenzoylamino)butanoate.

reactant | Ethyl 3-(4-(2-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)propionate | 4.0 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)CCC(=O)OCC | C22H23ClN4O2S
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3,4-dichlorobenzoyl chloride | 2.1 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl)-4-(3,4-dichlorobenzoylamino)butanoate | 0.56 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)C(CCC(=O)OCC)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C29H27Cl3N4O4S
